US08486953B2
Preparation of [4-Fluoro-2-(tetrahydro-2H-pyran-4-yloxy)-phenyl]-(5,7-dihydro-1H-pyrrolo[3′,4′:4,5]thieno[2,3-d]pyrimidin-4-yl)-amine
A solution of 4-chloro-5,7-dihydro-1H-pyrolo[3′,4′:4,5]thieno[2,3-d]pyrimidine-6-carboxylic acid benzyl ester (prepared in an analogous fashion to 4-chloro-5,8-dihydro-6H-pyrido[4′,3′:4,5]thieno[2,3-d]pyrimidine-7-carboxylic acid tert-butyl ester, WO2007/109279, 0.135 g, 0.39 mmol), 4-fluoro-2-(tetrahydro-2H-pyran-4-yloxy)aniline (0.090 g, 0.39 mmol) and para-toluene sulfonic acid (0.08 g, 0.04 mmol) in 1,4-dioxane (2 mL) was purged with nitrogen and heated at 120° C. for 21 hours. The reaction mixture was diluted with EtOAc, washed with 10% aqueous K2CO3 and brine. The organic phase was dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by flash column chromatography (100% iso-hexane→100% DCM→3% MeOH/DCM→200:10:1 DCM/MeOH/NH4OH) to afford the title compound as white solid (0.015 g, 10%).

reactant | 4-chloro-5,7-dihydro-1H-pyrolo[3′,4′:4,5]thieno[2,3-d]pyrimidine-6-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC2=C(SC=3NCN=C(C32)Cl)C1 | C16H14ClN3O2S
reactant | 4-chloro-5,8-dihydro-6H-pyrido[4′,3′:4,5]thieno[2,3-d]pyrimidine-7-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=C(C3=C(N=CN=C3Cl)S2)CC1 | C14H16ClN3O2S
reactant | 4-fluoro-2-(tetrahydro-2H-pyran-4-yloxy)aniline | 0.39 mmol, 0.090 g | FC1=CC(=C(N)C=C1)OC1CCOCC1 | C11H14FNO2
reactant | para-toluene sulfonic acid | 0.04 mmol, 0.08 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | [4-Fluoro-2-(tetrahydro-2H-pyran-4-yloxy)-phenyl]-(5,7-dihydro-1H-pyrrolo[3′,4′:4,5]thieno[2,3-d]pyrimidin-4-yl)-amine | 0.015 g, 10% | FC1=CC(=C(C=C1)NC=1C2=C(NCN1)SC1=C2CNC1)OC1CCOCC1 | C19H21FN4O2S
